US07829707B2
(b) 1-(1H-Indol-3-ylmethyl)-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one
A crude mixture of ethyl 3-[(1H-indol-3-ylmethyl)amino]-1H-pyrrole-2-carboxylate (max 0.49 mmol) was added to CH2Cl2 (5 mL). A few drops of methanol were added to increase solubility. Benzoylisothiocyanate (0.072 g, 0.53 mmol) was added and the mixture was stirred at r.t. for 1 h. The mixture was concentrated in vacuo. Ammonia (7N in methanol, 3 mL) was added and the mixture was heated at 80° C. for 2 h. The mixture was concentrated and purified by preparative HPLC, obtaining the title compound (0.030 g, 21%) as a solid.

reactant | ethyl 3-[(1H-indol-3-ylmethyl)amino]-1H-pyrrole-2-carboxylate | 0.49 mmol | N1C=C(C2=CC=CC=C12)CNC1=C(NC=C1)C(=O)OCC | C16H17N3O2
reactant | Benzoylisothiocyanate | 0.53 mmol, 0.072 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
catalyst | methanol | A few drops | CO | CH4O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(1H-Indol-3-ylmethyl)-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one | 0.030 g, 21% | N1C=C(C2=CC=CC=C12)CN1C(NC(C2=C1C=CN2)=O)=S | C15H12N4OS
